US07199105B2
To a stirred solution of 4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1 g, 4.11 mmol) in THF (10 mL), tetraallyltin (1.08 mL, 4.52 mmol) in dry THF was added, then cooled to 0° C. before borontrifluoride etherate (0.520 mL, 4.11 mmol) was added drop wise. The mixture was stirred at 0° C. for 1 h and then at room temperature for an additional 2 hours. Potassium fluoride (360 mg in 5 mL water) and celite (1 g) was added and the reaction mixture was stirred for an hour. The reaction mixture was filtered and concentrated to dryness and the residue was dissolved in DCM (200 mL), washed with water (100 mL) and brine 100 mL), dried over MgSO4 and evaporated to dryness. The residue obtained on removal of solvent was purified by silica gel column chromatography using 50% EtOAc in hexanes to obtain 4-allyl-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.94 g, 80%).

reactant | 4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 4.11 mmol, 1 g | COC(=O)C1N(CC(C1)=O)C(=O)OC(C)(C)C | C11H17NO5
reactant | tetraallyltin | 4.52 mmol, 1.08 mL | C(C=C)[Sn](CC=C)(CC=C)CC=C
reactant | borontrifluoride etherate | 4.11 mmol, 0.520 mL | B(F)(F)F.CCOCC
reactant | Potassium fluoride | 5 mL, 360 mg | [F-].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-allyl-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.94 g, 80% | COC(=O)C1N(CC(C1)(O)CC=C)C(=O)OC(C)(C)C | C14H23NO5
